US05219871
Preparation of methyl 4-(2-bromoethyl)phenylacetate
Phosphorus tribromide (1.42 g) was added, dropwise, to a solution of methyl 4-(2-hydroxyethyl)phenylacetate (2.7 g-see Preparation 21) in carbon tetrachloride (20 ml) at 0°. When the addition was complete, the mixture was allowed to warm to room temperature and then heated under reflux for 2 hours. Ice (100 g) was added and the mixture was partitioned between dichloromethane (50 ml) and saturated aqueous sodium bicarbonate (50 ml). The layers were separated and the aqueous layer extracted with dichloromethane (3×50 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give an oil which was purified by column chromatography on silica eluting with dichloromethane containing hexane (40%) then with dichloromethane. The product-containing fractions were combined and concentrated in vacuo to give the title compound as an oil, yield 1.02 g.

reactant | Phosphorus tribromide | 1.42 g | P(Br)(Br)Br | Br3P
reactant | methyl 4-(2-hydroxyethyl)phenylacetate | 2.7 g | OCCC1=CC=C(C=C1)CC(=O)OC | C11H14O3
solvent | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 4-(2-bromoethyl)phenylacetate | BrCCC1=CC=C(C=C1)CC(=O)OC | C11H13BrO2
